US07476666B2
Step 2: Methyl 5-(4-Fluorobenzyl)-3-hydroxy-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylate
The title compound was prepared from methyl 3-benzyloxy-5-(4-fluorobenzyl)-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylate using a hydrogenation procedure similar to that found in Example 1, Step 5, except that the mixture was treated with acetic acid (3 drops) and the reaction time totaled 2 hours. 1H NMR (400 MHz, CD3OD) δ 7.42-7.38 (m, 2H), 7.10-7.06 (m, 2M), 4.75 (s, 2H), 4.40-4.36 (t, 2H), 3.89 (s, 3H), 3.56-3.53 (m, 2H), 2.22-2.16 (m, 2H); ES MS (M+1)=334.

reactant | methyl 3-benzyloxy-5-(4-fluorobenzyl)-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CCC2)CC2=CC=C(C=C2)F)=O)C(=O)OC | C23H22FN3O4
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | Methyl 5-(4-Fluorobenzyl)-3-hydroxy-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylate | FC1=CC=C(CN2C(C=3N(CCC2)N=C(C3O)C(=O)OC)=O)C=C1 | C16H16FN3O4
